US04410520
A solution of 3-amino-1-(1-carboxyethyl)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one hydrochloride (3 g) and ethyl benzylpyruvate (6.5 g) in acetic acid (30 ml) and methanol (30 ml) was stirred at room temperature for 1 hour. Sodium cyanoborohydride (0.8 g) in methanol (10 ml) was added over 4 hours. The reaction mixture was stirred at room temperature for 24 hours. Concentrated hydrochloric acid (2 ml) was added and the mixture was stirred for 1 hour. The solvents were removed at reduced pressure and the residue was partitioned between water (50 ml) and ether (30 ml). The pH was adjusted to 9.4, the ether layer was separated and discarded. The aqueous solution was adjusted to pH 4.3 and extracted with ethyl acetate (3×50 ml). The combined ethyl acetate solutions were dried over magnesium sulfate and the solvent removed under reduced pressure. Hydrogen chloride was bubbled into a solution of the crude product in methylene chloride (10 ml) for 2 minutes. The solution was evaporated to give 1-(1-carboxyethyl)-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one hydrochloride, as a mixture of diastereomers, m.p. 87°-94°.

reactant | 3-amino-1-(1-carboxyethyl)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one hydrochloride | 3 g | Cl.NC1C(N(C2=C(CC1)C=CC=C2)C(C)C(=O)O)=O
reactant | ethyl benzylpyruvate | 6.5 g | C(C1=CC=CC=C1)CC(C(=O)OCC)=O | C12H14O3
reactant | Sodium cyanoborohydride | 0.8 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 1-(1-carboxyethyl)-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one hydrochloride | Cl.C(=O)(O)C(C)N1C(C(CCC2=C1C=CC=C2)NC(CCC2=CC=CC=C2)C(=O)OCC)=O | InChI=1S/C25H30N2O5.ClH/c1-3-32-25(31)21(15-13-18-9-5-4-6-10-18)26-20-16-14-19-11-7-8-12-22(19)27(23(20)28)17(2)24(29)30;/h4-12,17,20-21,26H,3,13-16H2,1-2H3,(H,29,30);1H
